US07932399B2
2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-3-methyl-pent-3,4-dien-2-ol (#6)
1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (0.61 g; 2.2 mmol), 1-bromo-2-butyne (1.7 mL; 18.8 mmol) and indium (2.49 g; 21.7 mmol) were suspended in THF (10 mL) and 0.045 M HCl (20 mL) and stirred vigorously overnight. The reaction mixture was diluted with water (60 mL) and ethyl acetate (40 mL), the layers were separated and the aqueous layer was extracted with ethyl acetate (3×20 mL). The combined extracts were washed with brine (50 mL) and dried over Na2SO4. The resulting crude material was purified by column chromatography (SiO2; 20% ethyl acetate/hexanes) to yield the title compound as an off-white solid.

reactant | 1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 2.2 mmol, 0.61 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | 1-bromo-2-butyne | 18.8 mmol, 1.7 mL | BrCC#CC | C4H5Br
reactant | indium | 21.7 mmol, 2.49 g | [In] | In
reactant | HCl | 0.045 M, 20 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-3-methyl-pent-3,4-dien-2-ol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(C(=C=C)C)O)C=C1Cl | C13H9Cl2F3N2O
